US08232403B2
Preparation of {2-[N-(cyclohexylmethyl)-N-ethylamino]-7-fluoroquinolin-3-yl}methanol
To a mixture of 2-[N-(cyclohexylmethyl)-N-ethylamino]-7-fluoroquinoline-3-carbaldehyde (230 mg, 0.73 mmol) in ethanol (2 mL) is added sodium borohydride (30 mg, 0.79 mmol) and the mixture is stirred for 2 hours. After addition of sat. ammonium chloride and water, the mixture is extracted with ethyl acetate. The combined organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated to give [N-(cyclopentylmethyl)-N-ethylamino]quinolin-3-yl}methanol, which is used without further purification.

reactant | 2-[N-(cyclohexylmethyl)-N-ethylamino]-7-fluoroquinoline-3-carbaldehyde | 0.73 mmol, 230 mg | C1(CCCCC1)CN(CC)C1=NC2=CC(=CC=C2C=C1C=O)F | C19H23FN2O
reactant | sodium borohydride | 0.79 mmol, 30 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | water | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | {2-[N-(cyclohexylmethyl)-N-ethylamino]-7-fluoroquinolin-3-yl}methanol | C1(CCCCC1)CN(CC)C1=NC2=CC(=CC=C2C=C1CO)F | C19H25FN2O
